US04081451
A. 2-Hydroxy-Nicotinic Acid
Prepare a solution containing 6 g of 3-cyano-2-pyridone, 7.5 g of potassium hydroxide pellets (85%), 8 ml. of ethylene glycol and 1.5 ml. of water. Heat the solution to 150°-160° C for 15 minutes and pour the reaction mixture into ice water. Acidify the aqueous solution to a pH of about 3. The 2-hydroxy-nicotinic acid precipitates, is collected by filtration and dried yielding the product of this step, m.p. 258°-260° C.

reactant | 3-cyano-2-pyridone | 6 g | C(#N)C=1C(NC=CC1)=O | C6H4N2O
reactant | potassium hydroxide | 7.5 g | [OH-].[K+]
reactant | ethylene glycol | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 2-Hydroxy-Nicotinic Acid | OC1=C(C(=O)O)C=CC=N1 | C6H5NO3
